US08445478B2
67 mg of 1-hydroxybenzotriazole, 0.4 cm3 of triethylamine and 228 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride are added successively to a solution of 500 mg of 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}methanesulphonylaminobenzoic acid and 150 mg of D-alaninamide hydrochloride in 20 cm3 of tetrahydrofuran. The reaction mixture is left stirring overnight at a temperature in the region of 20° C. After concentration of the reaction medium to dryness under reduced pressure, the yellowish-white powder obtained is dissolved with dichloromethane. The organic phase is washed with water. After separation by settling out, the aqueous phase is again extracted with dichloromethane. The reaction crude obtained after concentration of the organic phases to dryness under reduced pressure is purified by flash chromatography on a Merck 30 g silica cartridge (elution gradient: 100/0 to 95/5 dichloromethane/methanol). After concentration of the fractions under reduced pressure, a product is obtained which is washed with diethyl ether and oven-dried under vacuum. 220 mg of 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}methanesulphonylamino)-N—((R)-1-carbamoylethyl)benzamide are thus obtained in the form of white crystals.

reactant | 1-hydroxybenzotriazole | 67 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 228 mg | Cl.CN(CCCN=C=NCC)C
reactant | {1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}methanesulphonylaminobenzoic acid | ClC1=CC=C(C=C1)C(N1CC(C1)CS(=O)(=O)NC1=C(C(=O)O)C=CC=C1)C1=CC=C(C=C1)Cl | C24H22Cl2N2O4S
reactant | D-alaninamide hydrochloride | 150 mg | Cl.N[C@H](C)C(=O)N
reactant | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | 0.4 cm3 | C(C)N(CC)CC | C6H15N
product | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}methanesulphonylamino)-N—((R)-1-carbamoylethyl)benzamide | 220 mg | ClC1=CC=C(C=C1)C(N1CC(C1)CS(=O)(=O)NC=1C=C(C(=O)N[C@H](C)C(N)=O)C=CC1)C1=CC=C(C=C1)Cl | C27H28Cl2N4O4S
